US05688798
A solution of 1.74 g (0.00673 mol) of 5-(3,4,5,6,7,8-hexahydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine in 40 ml of ethanol was treated with 3.85 ml (0.0135 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and the residue was recrystallized from methanol/diethyl ether. 2.16 g (97%) of 5-(3,4,5,6,7,8-hexahydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine dihydrochloride were obtained as white crystals; m.p. 248°-250°.

reactant | 5-(3,4,5,6,7,8-hexahydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine | 0.00673 mol, 1.74 g | C1N(CCC=2CCCCC12)CC=1C(=NC(=NC1)C)N | C15H22N4
reactant | hydrochloric acid | 0.0135 mol, 3.5N, 3.85 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(3,4,5,6,7,8-hexahydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine dihydrochloride | 2.16 g, 97% | Cl.Cl.C1N(CCC=2CCCCC12)CC=1C(=NC(=NC1)C)N | InChI=1S/C15H22N4.2ClH/c1-11-17-8-14(15(16)18-11)10-19-7-6-12-4-2-3-5-13(12)9-19;;/h8H,2-7,9-10H2,1H3,(H2,16,17,18);2*1H
